US06617326B2
A mixture of 5′-bromo-5,2′-difluorobiphenyl-2-carbonitrile (2.48 g, 8.43 mmol), potassium acetate (2.48 g, 25.3 mmol) and bis(neopentyl glycolato)diboron (2.48 g, 11.0 mmol) in 1,4-dioxane (40 ml) containing dimethylsulfoxide (0.8 ml) was degassed with nitrogen for 20 min. Dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium(II) dichloromethane adduct (200 mg, 0.25 mmol) was then added and the reaction heated at 90° C. for 24 h. The mixture was cooled to ambient temperature then partitioned between 2 N sodium hydroxide (75 ml) and diethyl ether (100 ml) and the organics were discarded. The aqueous extract was made acidic (pH 5) with 36% hydrochloric acid and then extracted with diethyl ether (2×75 ml). The organic extract was washed with water (50 ml) and brine (75 ml), dried over anhydrous magnesium sulfate and evaporated to give 5′-(5,5-dimethyl-[1,3,2]dioxaborinan-2-yl)-5,2′-difluorobiphenyl-2-carbonitrile as a brown oil that crystallised on standing: 1H NMR (400 MHz, CDCl3) δ 1.03 (6H, s), 3.77 (4H, s), 7.15-7.24 (3H, m), 7.77 (1H, dd, J 9, 6 Hz), 7.83 (1H, dd, J 8, 2 Hz), 7.87-7.91 (1H, m).

reactant | 5′-bromo-5,2′-difluorobiphenyl-2-carbonitrile | 8.43 mmol, 2.48 g | BrC=1C=CC(=C(C1)C=1C(=CC=C(C1)F)C#N)F | C13H6BrF2N
reactant | potassium acetate | 25.3 mmol, 2.48 g | C(C)(=O)[O-].[K+]
reactant | bis(neopentyl glycolato)diboron | 11.0 mmol, 2.48 g | B1(OCC(CO1)(C)C)B2OCC(CO2)(C)C | C10H20B2O4
reactant | dimethylsulfoxide | 0.8 ml | CS(=O)C | C2H6OS
solvent | 1,4-dioxane | 40 ml | O1CCOCC1 | C4H8O2
catalyst | Dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium(II) dichloromethane adduct | 0.25 mmol, 200 mg | C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C(Cl)Cl.Cl[Pd]Cl.[Fe]
product | 5′-(5,5-dimethyl-[1,3,2]dioxaborinan-2-yl)-5,2′-difluorobiphenyl-2-carbonitrile | CC1(COB(OC1)C=1C=CC(=C(C1)C=1C(=CC=C(C1)F)C#N)F)C | C18H16BF2NO2
